* c:\users\senba\esim-workspace\cd4068_test\cd4068_test.cir

.include CD4068.sub
x1 net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ net-_u10-pad1_ net-_u10-pad2_ CD4068
* u9  a b c d e f g h net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ adc_bridge_8
* u10  net-_u10-pad1_ net-_u10-pad2_ k j dac_bridge_2
v1  a gnd pulse(0 5 0 0.00001 0.00001 0.001 0.002)
v2  b gnd pulse(0 5 0 0.00001 0.00001 0.002 0.004)
v3  c gnd pulse(0 5 0 0.00001 0.00001 0.004 0.008)
v4  d gnd pulse(0 5 0 0.00001 0.00001 0.008 0.0016)
v5  e gnd pulse(0 5 0 0.00001 0.00001 0.0016 0.0032)
v6  f gnd pulse(0 5 0 0.00001 0.00001 0.0032 0.0064)
v7  g gnd pulse(0 5 0 0.00001 0.00001 .0064 0.00128)
v8  h gnd pulse(0 5 0 0.00001 0.00001 0.00128 256)
* u11  k plot_v1
* u12  j plot_v1
* u1  a plot_v1
* u2  b plot_v1
* u3  c plot_v1
* u4  d plot_v1
* u5  e plot_v1
* u6  f plot_v1
* u7  g plot_v1
* u8  h plot_v1
a1 [a b c d e f g h ] [net-_u9-pad9_ net-_u9-pad10_ net-_u9-pad11_ net-_u9-pad12_ net-_u9-pad13_ net-_u9-pad14_ net-_u9-pad15_ net-_u9-pad16_ ] u9
a2 [net-_u10-pad1_ net-_u10-pad2_ ] [k j ] u10
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.00001e-00 0.00256e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(k)+6v(j)+12v(a)+18v(b)+24v(c)+30v(d)+36v(e)+42v(f)+48v(g)+54v(h)
.endc
.end
